US04454338
Synthesis of 6-amidino-2-naphthyl 2-methylbenzoate:
To 50 ml of anhydrous pyridine, was added 2.4 g of 2-methylbenzoic acid followed by 4.4 g of DCC under cooling in ice. After stirring for 30 minute and adding 5.0 g of 6amidino-2-naphthol methanesulfonate, the mixture was stirred overnight at room temperature. The precipitate was collected by filtration and washed with a small volume of pyridine, then successively with ethylether and acetone. The precipitate was dissolved in DMF and the insolubles were removed by filtration. Ethylether was added to the filtrate and the precipitated crystals were recrystallized from ethanol to obtain 1.4 g of flaky colorless crystals of 6amidino-2-napthyl 2-methyl benzoate methanesulfonate.

reactant | 2-methylbenzoic acid | 2.4 g | CC1=C(C(=O)O)C=CC=C1 | C8H8O2
reactant | DCC | 4.4 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 6amidino-2-naphthol methanesulfonate | 5.0 g | CS(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | C12H12N2O3S
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 6-amidino-2-naphthyl 2-methylbenzoate | 1.4 g | CC1=C(C(=O)OC2=CC3=CC=C(C=C3C=C2)C(N)=N)C=CC=C1 | C19H16N2O2
